US06756380B1
To a solution of 0.45 g (0.87 mmol) 2-methanesulfonyl-5-phenyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide in 15 ml methanol 0.123 g (2.17 mmol) sodiummethanolate (95%) were added at RT and the reaction solution stirred for 12 hrs. The reaction mixture was distibuted between 100 ml H2O and 100 ml CH2Cl2. The aqueous layer was extracted three times with 50 ml CH2Cl2, the combined organic layers dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/methanol 40:1) to give 0.30 g (73%) 2-methoxy-5-phenyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide as a off-white solid, m.p. 97.5-98.5°.

reactant | 2-methanesulfonyl-5-phenyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.87 mmol, 0.45 g | FC(C=1C=C(CN(C(=O)C2=NC(=NC=C2C2=CC=CC=C2)S(=O)(=O)C)C)C=C(C1)C(F)(F)F)(F)F | C22H17F6N3O3S
reactant | methanol | 2.17 mmol, 15 ml, 0.123 g | CO | CH4O
reactant | H2O | 100 ml | O | H2O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-methoxy-5-phenyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.30 g, 73% | FC(C=1C=C(CN(C(=O)C2=NC(=NC=C2C2=CC=CC=C2)OC)C)C=C(C1)C(F)(F)F)(F)F | C22H17F6N3O2
